Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Facial swelling 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ with history of HTN and hypothyroidism who
presents for evaluation of right facial swelling.

Per history obtained in the ED, patient reports right jaw
swelling that initially began 1 week ago. He was initially seen
in ___ on ___ for this complaint and was subsequently referred 
to
At___ ENT on ___ for further evaluation. ENT ultimately
referred patient to the ED for CT imaging and antibiotics due to
concern for submandibular abscess vs. deeper neck infection.
Patient denies fevers or chills but reports some temperature
sensitivity on the back right side of his mandible. He denies
difficulty swallowing, voice changes, shortness of breath,
drooling, weight loss, or fatigue. He endorses a non-productive
cough for the past week. 

In the ED, initial vitals were: T 98.5 BP 130/64 HR 93 RR 17 O2
98% RA

Labs were notable for:
- WBC 9.1, Hgb 12.1
- Lactate 2.5 --> 1.2

Studies were notable for:
- CT neck w/ contrast
1.4 x 1.5 x 1.1 cm heterogeneous right submandibular collection
with extensive surrounding fat stranding is concerning for
phlegmon/developing abscess. No definite drainable fluid
collection is identified.

The patient was given:
- IV ampicillin-sulbactam 3g

Consults:
- ENT: No drainable collection. Contact OMFS for possible dental
extraction. Recommend IV ceftriaxone/flagyl. Diet as tolerated.
Will follow on consult service. 

On arrival to the floor, patient endorses the above history. He
denies any tooth or mouth pain, fevers, chills, or sweats. He
feels well and has been tolerating eating/drinking well. 

 
Past Medical History:
Hypertension
Hyperlipidemia
Hypothyroidism
Allergic rhinitis
History of PE
Stasis dermatitis
Obesity 
 
Social History:
___
Family History:
Both parents are healthy. 
Uncle with "leg problems"
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: Temp: 98.1 PO BP: 143/88 R Sitting HR: 79 RR: 18 O2 sat:
98% O2 delivery: Ra Dyspnea: 0 RASS: 0 Pain Score: ___ 
GENERAL: Well-appearing, sitting in bed comfortably, in NAD
HEENT: NC/AT, EOMI, R mandibular swelling with no appreciable
fluctuance, no overlying erythema, no purulent drainage, poor
dentition but no obvious areas of erythema/purulence, MMM
NECK: No cervical lymphadenopathy. 
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. 
EXTREMITIES: No clubbing or cyanosis. ___ in
ace-wrap/compression socks with ___ pitting edema bilaterally. 
SKIN: Warm, well-perfused, no rashes
NEUROLOGIC: Alert, moving all extremities with purpose, no 
facial
asymmetry 

DISCHARGE PHYSICAL EXAM:
========================
24 HR Data (last updated ___ @ 2347)
    Temp: 97.8 (Tm 98.1), BP: 129/80 (101-129/61-80), HR: 67
(67-75), RR: 18, O2 sat: 93% (93-96), O2 delivery: RA  

GENERAL: Well-appearing, sitting in bed comfortably, in NAD
HEENT: R mandibular swelling with no appreciable fluctuance, no
overlying erythema, no purulent drainage, poor dentition. 
Appears
slightly smaller since admission
NECK: No cervical lymphadenopathy. 
CARDIAC: Regular rhythm, normal rate
LUNGS: Clear to auscultation bilaterally. 
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. 
NEUROLOGIC: Alert, moving all extremities with purpose, no 
facial
asymmetry 
 
Pertinent Results:
ADMISSION LABS
===============

___ 09:18PM BLOOD WBC-9.1 RBC-4.35* Hgb-12.1* Hct-38.8* 
MCV-89 MCH-27.8 MCHC-31.2* RDW-12.9 RDWSD-42.2 Plt ___
___ 09:18PM BLOOD Neuts-72.0* Lymphs-14.1* Monos-11.3 
Eos-2.0 Baso-0.2 Im ___ AbsNeut-6.52* AbsLymp-1.28 
AbsMono-1.02* AbsEos-0.18 AbsBaso-0.02
___ 09:18PM BLOOD Glucose-99 UreaN-19 Creat-1.0 Na-138 
K-4.3 Cl-98 HCO3-28 AnGap-12
___ 10:46PM BLOOD Lactate-2.5*

DISCHARGE LABS
===============

___ 07:45AM BLOOD WBC-5.8 RBC-3.92* Hgb-10.9* Hct-35.4* 
MCV-90 MCH-27.8 MCHC-30.8* RDW-12.9 RDWSD-42.9 Plt ___
___ 07:50AM BLOOD Neuts-60.7 ___ Monos-11.5 Eos-5.0 
Baso-0.7 Im ___ AbsNeut-3.27 AbsLymp-1.16* AbsMono-0.62 
AbsEos-0.27 AbsBaso-0.04
___ 07:50AM BLOOD Glucose-113* UreaN-21* Creat-1.0 Na-140 
K-4.4 Cl-101 HCO3-26 AnGap-13
___ 07:50AM BLOOD Calcium-9.3 Phos-4.0 Mg-2.2

OTHER PERTINENT LABS
=====================

___ 11:11PM BLOOD Lactate-1.2

IMAGING/STUDIES
===============
___ Imaging CT NECK W/CONTRAST (EG: 
FINDINGS:  
  
Heterogeneous enhancement in the right submandibular space 
measuring 3.7 cm x 
2.9 cm x 3.0 cm, containing central component of incompletely 
formed septated 
fluid measuring 1.8 cm x 1.4 cm series 3, image 48.  Findings 
most consistent 
with submandibular space phlegmon, with possible very early 
abscess formation. 
Large cavity posterior most right mandibular molar, with 
periapical subtle low 
attenuation within the bone, suggesting odontogenic 
infection/periapical 
abscess.  Suggestion of small pocket of fluid along the lingual 
side right 
mandible coronal image 13, axial image 41.  Indistinct fat 
planes right floor 
mouth, suggests infection extension.  No fluid collection within 
floor mouth.  
No airway compromise..  Reactive change of the very anterior 
aspect right 
submandibular gland, which is not at the epicenter of 
inflammatory change 
  
Mildly prominent subcentimeter right neck lymph nodes, likely 
reactive.  Soft 
tissue stranding extends to the subcutaneous tissues, right 
latissimus 
thickening. 
The salivary glands enhance normally and are without mass or 
adjacent fat 
stranding.  The thyroid gland appears normal.Patent neck 
vessels. 
  
The imaged portion of the lung apices are clear and there are no 
concerning 
pulmonary nodules. There are no osseous lesions. 
  
IMPRESSION:  
  
Right submandibular space phlegmon, with early small pockets 
abscess 
formation, likely odontogenic from posterior most right 
mandibular molar which 
has large cavity and probable small periapical abscess.. 
Inflammation extends into the right lateral floor mouth, no 
floor mouth fluid 
collection, consider early Ludwig's angina. 
No airway compromise. 
Few reactive neck lymph nodes. 

___ Imaging CT NECK W/CONTRAST (EG: 
IMPRESSION:  
  
Substantial interval improvement in previously seen phlegmon in 
the right 
submandibular space.  No drainable fluid collection or new areas 
of 
phlegmonous change. 

 
Brief Hospital Course:
Mr. ___ is a ___ with history of HTN and hypothyroidism who
presents for evaluation of right facial swelling, found to have 
a
submandibular fluid collection that likely represents a 
phlegmon.

ACUTE/ACTIVE ISSUES:
====================
# Right submandibular mass
He presented with R jaw swelling and pain found to have 
submandibular mass with fluid collection and stranding on CT, 
representing an infection with phlegmon/early abscess. ENT was 
consulted, deferring intervention as there was no drainable 
fluid collection, only a small 1.5 x 1 cm disorganized 
collection. He was started on IV ampicillin-sulbactam and 
monitored for leukocytosis, fevers, and systemic signs of 
infection which he did not develop. Blood cultures were negative 
to date. Repeat CT scan showed interval improvement with no 
fluid collection, and the patient was discharged on PO augmentin 
x 10 days per the ENT team. OMFS was consulted given suspected 
odontogenic source, with plans for outpatient tooth extraction 
after discharge.

CHRONIC/STABLE ISSUES:
======================
# HTN - Continued home lisinopril-HCTZ ___ daily 

# Hypothyroidism - Continued home levothyroxine 100mcg daily

# Venous stasis dermatitis - Takes furosemide 20mg daily:PRN for 
leg swelling. Compression stockings

TRANSITIONAL ISSUES
===================
Discharge weight 131.5 kg 289.9 lb

# Right submandibular mass
[] Should take PO augmentin bid x 10 days (___)
[] Follow up with OMFS as outpatient for tooth extractions - 
have patient call ___ in am after discharge for same 
day appt

# CODE: Full, presumed
# CONTACT: ___
 Phone: ___

>30 min spent on d/c planning including face to face time. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Loratadine 10 mg PO DAILY 
3. Levothyroxine Sodium 100 mcg PO DAILY 
4. lisinopril-hydrochlorothiazide ___ mg oral DAILY 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tab-cap by mouth 
twice a day Disp #*19 Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  Levothyroxine Sodium 100 mcg PO DAILY  
4.  lisinopril-hydrochlorothiazide ___ mg oral DAILY  
5.  Loratadine 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
=================
Submandibular phlegmon

SECONDARY DIAGNOSES:
====================
Venous stasis 
Hypothyroidism 
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
 
 WHY WERE YOU ADMITTED TO THE HOSPITAL?
 - You were admitted to the hospital because you were having 
pain and swelling below your jaw.

 WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?  
 - You received a CT scan and were found to have an infection 
below your jaw.
 - You were given antibiotics and a repeat CT scan showed that 
your infection had improved.

 WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?  
 - Please take all of your medications as prescribed and go to 
your follow up appointments with your doctors ___ below)   
 - Weigh yourself every morning, before you eat or take your 
medications. Call your doctor if your weight increases by more 
than 3 pounds  
 - Please maintain a low salt diet and monitor your fluid intake 
 
 - Seek medical attention if you have new or concerning symptoms 


 It was a pleasure participating in your care. We wish you the 
best!
 
 - Your ___ Care Team  
 
Followup Instructions:
___